US06294503B1
Preparation of 3-[7-fluoro-4-methyl-5-nitro-2H-1,4-benzoxazine-3(4H)-on-6-yl]-1-methyl-6-trifluoromethyl-2,4-(1H,3H)-pyrimidinedione (Compound No.1-2).
3-[7-Fluoro-5-nitro-2H-1,4-benzoxazine-3(4H)-on-6-yl]-6-trifluoromethyl-2,4-(1H, 3H)-pyrimidinedione (1.0 g) was dissolved in DMF (20 ml) containing potassium carbonate (1.0 g) and iodomethane (0.5 ml). The mixture was stirred for 2 hr and then water (30 ml) and ethyl acetate (40 ml) were added. The organic phase was washed with water (15 ml×2) and brine (15 ml), then dried over sodium sulfate. Filtration and evaporation gave the title compound (0.9 g).

reactant | 3-[7-Fluoro-5-nitro-2H-1,4-benzoxazine-3(4H)-on-6-yl]-6-trifluoromethyl-2,4-(1H, 3H)-pyrimidinedione | 1.0 g | FC1=CC2=C(NC(CO2)=O)C(=C1N1C(NC(=CC1=O)C(F)(F)F)=O)[N+](=O)[O-] | C13H6F4N4O6
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.5 ml | IC | CH3I
reactant | water | 30 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | 3-[7-fluoro-4-methyl-5-nitro-2H-1,4-benzoxazine-3(4H)-on-6-yl]-1-methyl-6-trifluoromethyl-2,4-(1H,3H)-pyrimidinedione | 0.9 g | FC1=CC2=C(N(C(CO2)=O)C)C(=C1N1C(N(C(=CC1=O)C(F)(F)F)C)=O)[N+](=O)[O-] | C15H10F4N4O6
